US07511144B2
A solution of 11.2 g (24.5 mmol) of [3-(ethoxycarbonyl)propyl]triphenylphosphonium bromide in dimethylformamide (19 mL) was dropped into a cooled (10° C.) suspension of 1.13 g (28.2 mmol) of a 60% sodium hydride in dimethylformamide (2 mL) under an atmosphere of argon, and stirred for 40 minutes. Into this, 2.5 g (24.5 mmol) of tetrahydropyran-4-one was dropped. After dropping, stirring was continued for 1 hour at 10° C. and for 14 hours at room temperature. After the reaction was completed, the reaction mixture was poured into ice water and extracted with ether. The organic layer was washed with water (three times) and saturated brine successively, then dried over anhydrous magnesium sulfate and concentrated under a reduced pressure. The obtained residue was purified by medium pressure liquid column chromatography on silica gel (developing solvent: hexane:etyl acetate) to obtain 320 mg (yield 6.6%) of 4-(tetrahydropyran-4-ylidene)butanoic acid ethyl ester (IX-127) as colorless liquid. Its physical properties are shown below.

reactant | [3-(ethoxycarbonyl)propyl]triphenylphosphonium bromide | 24.5 mmol, 11.2 g | [Br-].C(C)OC(=O)CCC[P+](C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1
reactant | sodium hydride | [H-].[Na+]
reactant | tetrahydropyran-4-one | 24.5 mmol, 2.5 g | O1CCC(CC1)=O | C5H8O2
solvent | dimethylformamide | 19 mL | CN(C=O)C | C3H7NO
solvent | dimethylformamide | 2 mL | CN(C=O)C | C3H7NO
product | 4-(tetrahydropyran-4-ylidene)butanoic acid ethyl ester | 320 mg, yield 6.6% | C(C)OC(CCC=C1CCOCC1)=O | C11H18O3
